US07629344B2
Synthesis of 1-[4-(4-Chloro-3-ethoxyphenyl)piperazin-1-yl]-2-[3-(1H-imidazol-2-yl)pyrazolo[3,4-b]pyridin-1-yl]ethanone
The title compound was prepared following Protocol A. 1-(4-Chloro-3-ethoxyphenyl)piperazine dihydrochloride and [3-(1H-imidazol-2-yl)pyrazolo[3,4-b]pyridin-1-yl]acetic acid were used as the coupling components. The crude product was purified by silica gel chromatography (4% to 15% MeOH in CH2Cl2) to provide 1-[4-(4-chloro-3-ethoxyphenyl)piperazin-1-yl]-2-[3-(1H-imidazol-2-yl)pyrazolo[3,4-b]pyridin-1-yl]ethanone as a tan solid (25 mg): 1H NMR (CDCl3, 400 MHz) 8.79 (dd, 0.6H), 8.66 (dd, 0.4H), 8.57-8.54 (m, 1H), 7.29-7.19 (m, 4H), 6.49-6.40 (m, 2H), 5.45 (s, 0.7H), 5.43 (s, 1.3H), 4.10-4.04 (m, 2H), 3.81-3.69 (m, 4H), 3.23-3.16 (m, 4H), 1.50-1.45 (m, 3H); LC/MS m/z (M+H)+ 466.4.

reactant | 1-(4-Chloro-3-ethoxyphenyl)piperazine dihydrochloride | Cl.Cl.ClC1=C(C=C(C=C1)N1CCNCC1)OCC
reactant | [3-(1H-imidazol-2-yl)pyrazolo[3,4-b]pyridin-1-yl]acetic acid | N1C(=NC=C1)C1=NN(C2=NC=CC=C21)CC(=O)O | C11H9N5O2
product | 1-[4-(4-chloro-3-ethoxyphenyl)piperazin-1-yl]-2-[3-(1H-imidazol-2-yl)pyrazolo[3,4-b]pyridin-1-yl]ethanone | 25 mg | ClC1=C(C=C(C=C1)N1CCN(CC1)C(CN1N=C(C=2C1=NC=CC2)C=2NC=CN2)=O)OCC | C23H24ClN7O2
